Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Flagyl / Renografin-60 / clindamycin / clarithromycin
 
Attending: ___
 
Chief Complaint:
RUQ abdominal pain
 
Major Surgical or Invasive Procedure:
___: ERCP

 
History of Present Illness:
Patient is a ___ male who underwent laparoscopic 
cholecystectomy on ___ for acute cholecystitis.  Since 
then he has been doing well. He reports that he only was sore 
for a few days and afterwards was back to his baseline up until 
today when he began to have 12 hours of colicky right upper 
quadrant pain that feels very similar to his 
cholecystitis/biliary colic leading to his cholecystectomy.  He 
denies fever/chills, nausea/vomiting, dyspnea/chest pain or 
other symptoms.
 
Past Medical History:
PMH: 
-GERD
-Esophagitis
-Hiatal hernia
-Nephrolithasis
-HLD

PSH: 
-Prostate resection ___ years ago
-Laparoscopic cholecystectomy
 
Social History:
___
Family History:
Family History: 
Non-Contributory
 
Physical Exam:
Physical Exam on Admission:
Vitals: 98.1 82 154/58 10 98% RA 
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Breathing comfortably on room air
ABD: Soft, nondistended, nontender, no rebound or guarding
Ext: No ___ edema, ___ warm and well perfused

Physical Exam on Discharge:
VS: 98, 113/69, 103, 18, 95 RA
GENERAL: Well appearing, NAD, AOx3 
HEENT: EOMI, MMM, no scleral icterus
CV: RRR
PULM: nonlabored breathing
ABD: soft, NT/ND
Ext: Intact, appropriate strength
 
Pertinent Results:
LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___  

Status post cholecystectomy with no sonographic abnormality to 
explain the patient's abdominal pain. 
  
CT ABD & PELVIS WITH CONTRAST Study Date of ___ 
1. Status post cholecystectomy with 2 gallstones in the distal 
common bile duct, the largest of which measures 5 mm consistent 
with choledocholithiasis. Mild associated upstream extra and 
intrahepatic biliary dilatation. 
2. Nonobstructing bilateral renal calculi, similar compared to 
prior. 
3. Benign appearing 6 mm left lower lobe subpleural pulmonary 
nodule is stable. 

LAB DATA:
___ 08:20AM BLOOD WBC-7.3 RBC-4.21* Hgb-13.3* Hct-39.9* 
MCV-95 MCH-31.6 MCHC-33.3 RDW-12.3 RDWSD-42.9 Plt ___
___ 09:15AM BLOOD WBC-8.2 RBC-4.36* Hgb-13.6* Hct-41.4 
MCV-95 MCH-31.2 MCHC-32.9 RDW-12.2 RDWSD-42.7 Plt ___
___ 05:43AM BLOOD WBC-5.4 RBC-4.54* Hgb-14.3 Hct-43.1 
MCV-95 MCH-31.5 MCHC-33.2 RDW-12.1 RDWSD-42.0 Plt Ct-UNABLE TO 
___ 05:00PM BLOOD WBC-8.5 RBC-4.57* Hgb-14.3 Hct-44.1 
MCV-97 MCH-31.3 MCHC-32.4 RDW-11.9 RDWSD-42.7 Plt ___
___ 05:00PM BLOOD Neuts-82.4* Lymphs-8.6* Monos-8.0 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-7.01* AbsLymp-0.73* 
AbsMono-0.68 AbsEos-0.03* AbsBaso-0.03
___ 03:22PM BLOOD ___ PTT-38.2* ___
___ 08:20AM BLOOD Glucose-94 UreaN-14 Creat-1.2 Na-139 
K-4.4 Cl-102 HCO3-22 AnGap-15
___ 09:15AM BLOOD Glucose-107* UreaN-14 Creat-1.2 Na-139 
K-4.3 Cl-102 HCO3-24 AnGap-13
___ 09:20AM BLOOD Glucose-145* UreaN-10 Creat-1.2 Na-135 
K-4.4 Cl-100 HCO3-23 AnGap-12
___ 05:43AM BLOOD Glucose-122* UreaN-10 Creat-1.2 Na-134* 
K-6.5* Cl-103 HCO3-22 AnGap-9*
___ 05:00PM BLOOD Glucose-111* UreaN-11 Creat-1.1 Na-142 
K-4.5 Cl-102 HCO3-25 AnGap-15
___ 08:20AM BLOOD ALT-128* AST-44* AlkPhos-86 TotBili-1.8*
___ 09:15AM BLOOD ALT-159* AST-161* AlkPhos-90 TotBili-2.0*
___ 09:20AM BLOOD ALT-86* AST-125* AlkPhos-88 TotBili-2.1* 
DirBili-0.6* IndBili-1.5
___ 05:43AM BLOOD ALT-37 AST-64* AlkPhos-59 TotBili-1.8*
___ 05:00PM BLOOD ALT-29 AST-29 AlkPhos-86 TotBili-0.8
___ 08:20AM BLOOD Lipase-130*
___ 05:00PM BLOOD Lipase-35
___ 08:20AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.4
___ 09:15AM BLOOD Calcium-9.7 Phos-2.9 Mg-2.5
___ 05:00PM BLOOD Albumin-4.9
 
Brief Hospital Course:
Patient is a ___ year old male with pmh significant for GERD, 
esophagitis, hiatal hernia, nephrolithiasis, and hyperlipidemia 
who underwent laparoscopic cholecystectomy on ___ for acute 
cholecystitis. Patient presented to the emergency department 
with complaints of 12 hours of colicky right upper quadrant 
abdominal pain that he reported felt very similar to his 
cholecystitis/biliary colic leading to his cholecystectomy. On 
arrival he denied fever/chills, nausea/vomiting, dyspnea/chest 
pain or other symptoms. Therefore imaging was completed and cat 
scan demonstrated choledocholithiasis. Therefore acute care 
surgery was consulted for evaluation and management and he was 
admitted to the inpatient unit. 

Once admitted to the inpatient unit, GI was also consulted for 
ERCP which he underwent successfully on ___ with stone 
removal.  After his procedure his diet was advanced to clear 
liquids which he tolerated well and the following morning he was 
advanced to regular diet which he also tolerated with ease. 
Following ERCP, he reported resolution of pain. Patient was 
therefore cleared for d/c home with outpatient ___ clinic follow 
up and follow up with ERCP as needed. He was encouraged to also 
follow up with his primary care provider.

During this hospitalization, the patient voided without 
difficulty and ambulated early and frequently. The patient was 
adherent with respiratory toilet and incentive spirometry and 
actively participated in the plan of care. The patient had 
venodyne boots used during this stay.

At the time of discharge, the patient was doing well. He was 
afebrile and his vital signs were stable. The patient was 
tolerating a regular diet, ambulating, voiding without 
assistance, and his pain was well controlled. The patient was 
discharged home without services. Discharge teaching was 
completed and follow-up instructions were reviewed with reported 
understanding and agreement.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Atorvastatin 10 mg PO QPM 
2. Polyethylene Glycol 17 g PO DAILY:PRN Constipation  
3. Senna 8.6 mg PO BID:PRN Constipation  
4. Nexium 40 mg Other BID 
5. Famotidine 40 mg PO BID 
6. Aspirin 81 mg PO DAILY 
7. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
8. TraMADol 25 mg PO Q6H:PRN pain
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Famotidine 40 mg PO BID  
5.  Nexium 40 mg Other BID  
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation   
7.  Senna 8.6 mg PO BID:PRN Constipation   
8.  TraMADol 25 mg PO Q6H:PRN pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation of abdominal pain following recent removal of your 
gallbladder laparoscopically. You had a cat scan completed which 
demonstrated 2 retained gallstones in the distal common bile 
duct, therefore you were evaluated by the GI team and underwent 
an ERCP procedure to remove the retained stones on ___. You 
are recovering well and are now ready for discharge. Please 
follow the instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___